US06093718
1-(tert-butoxycarbonyl)-4-(1-(2-methylpyrimidin-4-yl)piperazin-4-ylcarbonyl)piperazine (700 mg) was stirred in dichloromethane (20 ml) and triethylarnine (1.34 ml) and cooled in an ice-bath. 4-chlorobenzenesulphonylchloride (0.56 g) was added and reaction allowed to warm to room temperature and then stirred overnight. The mixture was evaporated and the residue was purified by chromatography on silica gel using in gradient of dichloromethane to 8% methanol in dichloromethane as eluent to give a foam. This was triturated with diethylether to give 1-(4-chlorophenylsulphonyl)-4-[1-(2-methylpyrimidin-4-yl)piperazin-4-ylcarbonyl]piperazine a colourless solid 1.05 g ;m.p. 183-184° C.; NMR (CDCl3): 8.15 (m, 1H), 7.7 (m, 2H), 7.55 (m, 2H), 6.3 (m, 1H), 3.65 (m, 4H), 3.45 (m, 4H), 3.35 (m, 4H), 3.05 (m, 4H), 2.5 (s, 3H).

reactant | 1-(tert-butoxycarbonyl)-4-(1-(2-methylpyrimidin-4-yl)piperazin-4-ylcarbonyl)piperazine | 700 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)N1CCN(CC1)C1=NC(=NC=C1)C | C19H30N6O3
reactant | triethylarnine | 1.34 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulphonylchloride | 0.56 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(4-chlorophenylsulphonyl)-4-[1-(2-methylpyrimidin-4-yl)piperazin-4-ylcarbonyl]piperazine | ClC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)N1CCN(CC1)C1=NC(=NC=C1)C | C20H25ClN6O3S
